US05350872
Preparation of 3-(4-nitrophenyl)propionic acid
3.60 g (0.025 mol) of Meldrum's acid and 3.8 g (0.025 mol) of p-nitrobenzaldehyde were weighed in to 25 ml of the mixture of formic acid and triethylamine prepared as described in Example 1. The reaction mixture was heated to 105° C. during 1 hour and reacted at the same temperature for 1 hour. The product was isolated according to Example 1.

reactant | Meldrum's acid | 0.025 mol, 3.60 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | p-nitrobenzaldehyde | 0.025 mol, 3.8 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | formic acid | C(=O)O | CH2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(4-nitrophenyl)propionic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)O | C9H9NO4
